US08748624B2
STEP B: 2-bromo-1-(bromomethyl)-4-(trifluoromethyl)benzene
Solid benzoyl peroxide (1.5 g, 6.3 mmol) was added to a benzene solution (200 mL) of 2-bromo-1-methyl-4-(trifluoromethyl)benzene (10.0 g, 41.8 mmol) and NBS (8.2 g, 46.0 mmol) and the resulting mixture was refluxed. After 16 h the resulting mixture was cooled, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | benzoyl peroxide | 6.3 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzene | 200 mL | C1=CC=CC=C1 | C6H6
reactant | 2-bromo-1-methyl-4-(trifluoromethyl)benzene | 41.8 mmol, 10.0 g | BrC1=C(C=CC(=C1)C(F)(F)F)C | C8H6BrF3
reactant | NBS | 46.0 mmol, 8.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-bromo-1-(bromomethyl)-4-(trifluoromethyl)benzene | BrC1=C(C=CC(=C1)C(F)(F)F)CBr | C8H5Br2F3
